US05166155
Under a nitrogen atmosphere 6,7-dichloroquinoxalin-2(1H)-one (10.0 g, 46.5 mmol) (Liebigs Ann. Chem, (1982), 754) was suspended in 135 ml of dry DMF and sodium hydride (2.23 g, 55.8 mmol (60% mineral oil dispersion)) was added. After stirring for 2 h, benzyl bromoacetate (9.18 ml, 58.6 mmol) was added and the mixture was stirred for 3.5 h. The reaction mixture was poured onto 300 g of crushed ice and the precipitate was filtered off, washed with water and dried. The product was triturated with ether (500 ml), the precipitate filtered off, washed with ether and dried to afford 13.3 g of 1-benzyloxycarbonylmethyl-6,7-dichloroquinoxaline-2(1H)-one. 1H-NMR (DMSO-d6):δ5.18(s, 2H), 5.23(s, 1H), 8.18(s, 1H), 8.38(s, 1H).

reactant | 6,7-dichloroquinoxalin-2(1H)-one | 46.5 mmol, 10.0 g | ClC=1C=C2N=CC(NC2=CC1Cl)=O | C8H4Cl2N2O
reactant | sodium hydride | 55.8 mmol, 2.23 g | [H-].[Na+]
reactant | benzyl bromoacetate | 58.6 mmol, 9.18 ml | BrCC(=O)OCC1=CC=CC=C1 | C9H9BrO2
solvent | DMF | 135 ml | CN(C)C=O | C3H7NO
product | 1-benzyloxycarbonylmethyl-6,7-dichloroquinoxaline-2(1H)-one | 13.3 g | C(C1=CC=CC=C1)OC(=O)CN1C(C=NC2=CC(=C(C=C12)Cl)Cl)=O | C17H12Cl2N2O3
